US04367238
A mixture of 2-(2-methoxy-3-phenoxyphenyl)acetonitrile (2.5 g) and potassium hydroxide (2.3 g) in water (20 ml) and ethanol (40 ml) was treated in a similar manner to that of Example 17-(1) to give oily 2-(2-methoxy-3-phenoxyphenyl)acetic acid (2.1 g).

reactant | 2-(2-methoxy-3-phenoxyphenyl)acetonitrile | 2.5 g | COC1=C(C=CC=C1OC1=CC=CC=C1)CC#N | C15H13NO2
reactant | potassium hydroxide | 2.3 g | [OH-].[K+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2-methoxy-3-phenoxyphenyl)acetic acid | 2.1 g | COC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)O | C15H14O4
